US05466694
6.30 g of 2-amino-4-isobutylamino-6-chloropyrimidine 3-oxide are suspended in 110 ml of ethanol. 4.85 g of N-chlorosuccinimide are added. The reaction mixture is heated under reflux for 2 hours and then evaporated to dryness. The residue is taken up in 50 ml of water. The pH is adjusted to 8 by addition of concentrated sodium hydroxide solution. The precipitate formed is filtered on sintered glass, washed with water until neutral and dried under vacuum over phosphorus pentoxide. It is recrystallized from 150 ml of ethanol. 4.30 g of 2-amino-4-isobutylamino-5,6-dichloropyrimidine 3-oxide are obtained.

reactant | 2-amino-4-isobutylamino-6-chloropyrimidine 3-oxide | 6.30 g | NC1=NC(=CC(=[N+]1[O-])NCC(C)C)Cl | C8H13ClN4O
reactant | N-chlorosuccinimide | 4.85 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | 2-amino-4-isobutylamino-5,6-dichloropyrimidine 3-oxide | 4.30 g | NC1=NC(=C(C(=[N+]1[O-])NCC(C)C)Cl)Cl | C8H12Cl2N4O
